US09279082B2
6,8-Bis-(4-hydroxy-but-1-ynyl)-3-(4-methoxy-phenyl)-chromen-2-one is hydrogenated in THF on Pd/activated charcoal until the reaction is completed. The catalyst is filtered off, the solvent removed in vacuo and the crude product is filtered through silica gel with THF/toluene (3:2) and recrystallized from toluene. 6,8-Bis-(4-hydroxy-butyl)-3-(4-methoxy-phenyl)-chromen-2-one is obtained as a colourless solid.

reactant | 6,8-Bis-(4-hydroxy-but-1-ynyl)-3-(4-methoxy-phenyl)-chromen-2-one | OCCC#CC=1C=C2C=C(C(OC2=C(C1)C#CCCO)=O)C1=CC=C(C=C1)OC | C24H20O5
solvent | THF | C1CCOC1 | C4H8O
product | 6,8-Bis-(4-hydroxy-butyl)-3-(4-methoxy-phenyl)-chromen-2-one | OCCCCC=1C=C2C=C(C(OC2=C(C1)CCCCO)=O)C1=CC=C(C=C1)OC | C24H28O5
